US05789404
A mixture of 3-(5-chloro-3-1H-indolyl)propanoic acid (17.5 g, 0.078 mol), 4-fluoroiodobenzene (20.8 g, 0.094 mol), Cul (2.4 g), K2CO3 (21.6 g, 0.16 mol) and N-methyl-2-pyrrolidone (0.20 L) was heated at 165° C. for 7 h. The reaction mixture was cooled to room temperature and water (0.25 L) was added. After acidification with concentrated hydrochloric acid, the mixture was extracted with diethyl ether (2×0.30 L) . The combined organic phases were washed with brine (3×0.40 L) and dried (Na2SO4). Evaporation of the solvents afforded crude 3-[5-chloro-1-(4-fluorophenyl)-3-1H-indolyl]propanoic acid (26 g) as an oil. The oil was dissolved in dry diethyl ether and added to a suspension of lithium aluminum hydride (15 g, 0.40 mol) in dry diethyl ether (0.20 L) over 30 min. After reflux for further 2 h the reaction mixture was cooled to 0° C. and carefully treated with water (15 ml), 4N aqueous NaOH (15 ml) and then water (75 mL). The resulting mixture was filtered and dried (Na2SO4). Evaporation of the solvents afforded the title compound (1a) as an oil (17.6 g, 74%). An analytical sample was crystallized from heptane: mp. 67°-69° C.; 1H NMR (CDCl3) δ 1.55 (broad s, 1 H), 2.00 (qui, 2 H), 2.90 (t, 2 H), 3.75 (t, 2 H), 7.10 (s, 1 H), 7.15 (broad d, 1 H), 7.20 (t, 2 H), 7.35 (d, 1 H), 7.40 (dd, 2 H), 7.60 (broad s,1 H). Anal. (C17H15ClFNO) C, H, N.

reactant | 3-(5-chloro-3-1H-indolyl)propanoic acid | 0.078 mol, 17.5 g | ClC=1C=C2C(=CNC2=CC1)CCC(=O)O | C11H10ClNO2
reactant | 4-fluoroiodobenzene | 0.094 mol, 20.8 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | K2CO3 | 0.16 mol, 21.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methyl-2-pyrrolidone | 0.20 L | CN1C(CCC1)=O | C5H9NO
solvent | water | 0.25 L | O | H2O
product | 3-[5-chloro-1-(4-fluorophenyl)-3-1H-indolyl]propanoic acid | 26 g | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)CCC(=O)O | C17H13ClFNO2
